US04937246
In methylene chloride (10 ml) is dissolved 1-(7,8-dimethoxy-2,3-dihydro-1-benzothiepin-4-carbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine (1.6 g) obtained in Working Example 24. To the solution is added, while stirring under ice-cooling, m-chloro-perbenzoic acid (1.71 g) in limited amounts. The mixture is stirred for one hour, and then left standing at -5° C. for 15 hours. To the reaction mixture is added an aqueous solution of acid sodium sulfite to decompose the excess peracid. The resultant is poured into an aqueous solution of sodium hydrogencarbonate; this is followed by extraction with methylene chloride. The organic layer is washed with an aqueous solution of sodium hydrogencarbonate, dried, and concentrated under reduced pressure. The residue is recrystallized from ethanol to give 1-(7,8-dimethoxy-1,1-dioxo-2,3-dihydro-1-benzothiepin4-carbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine as colorless prisms (1.4 g), m.p. 226°-229° C.

reactant | 1-(7,8-dimethoxy-2,3-dihydro-1-benzothiepin-4-carbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 1.6 g | COC=1C(=CC2=C(C=C(CCS2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)OC | C27H32N2O7S
reactant | m-chloro-perbenzoic acid | 1.71 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(7,8-dimethoxy-1,1-dioxo-2,3-dihydro-1-benzothiepin4-carbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 1.4 g | COC=1C(=CC2=C(C=C(CCS2(=O)=O)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)OC | C27H32N2O9S
